US04239901
2.5 g (10 mmoles) of 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid are dissolved in 30 ml of methylene chloride. A solution of 2.01 g (15 mmoles) of sulfuryl chloride in 10 ml of chloroform is added dropwise, with cooling to the resulting solution; heating is effected gradually to room temperature; and this is followed by boiling under reflux for 2 hours. The reaction solution is allowed to cool; the solvent is distilled off; 50 ml of 2 N solution of sodium hydroxide are added to the thus-obtained residue, and boiling up is effected for a few minutes. The reaction solution is extracted with diethyl ether and then acidified with hydrochloric acid. After renewed extraction with diethyl ether, the combined ether phases are dried and evaporated to produce 2.6 g (90% of theory) of 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid, m.p. 102° to 103° C.

reactant | 2-[3-chloro-4-(pyrazol-1-yl)phenyl]propionic acid | 10 mmoles, 2.5 g | ClC=1C=C(C=CC1N1N=CC=C1)C(C(=O)O)C | C12H11ClN2O2
reactant | sulfuryl chloride | 15 mmoles, 2.01 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-chloro-4-(4-chloropyrazol-1-yl)phenyl]propionic acid | 2.6 g, 90% | ClC=1C=C(C=CC1N1N=CC(=C1)Cl)C(C(=O)O)C | C12H10Cl2N2O2
